US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide
To a solution of 0.132 gm (0.57 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine in 5 mL of tetrahydrofuran were added 1.5 mL of triethylamine followed by 0.10 mL (0.13 gm, 0.85 mMol) of 4-fluorobenzoyl chloride. The resulting mixture was stirred at room temperature for 90 minutes at which time the reaction mixture was diluted with 0.1N aqueous sodium hydroxide. This aqueous solution was extracted with dichloromethane and the organic phases were washed sequentially with water and saturated aqueous sodium chloride. The dichloromethane solution was dried over sodium sulfate and concentrated under reduced pressure. This residue was dissolved in dilute aqueous tartaric acid and then washed with dichloromethane. The aqueous phase made basic with aqueous sodium carbonate and was then extracted with dichloromethane. These dichloro-methane extracts were combined and concentrated under reduced pressure. The residue was subjected to radial chromatography (silica gel, 2 mm), eluting with 5% methanol (containing 5% ammonium hydroxide) in chloro-form. Fractions containing product were combined and concentrated under reduced pressure. The residue was crystallized from toluene/hexane to provide 0.130 gm (64%) of the title compound in two crops.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine | 0.57 mMol, 0.132 gm | CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C | C14H18N2O
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.85 mMol, 0.10 mL, 0.13 gm | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 0.1N | [OH-].[Na+]
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide | 0.130 gm, 64% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=CC=C(C=C3)F)=O)CC1)C | C21H21FN2O2
